US07115597B2
4-(2-chloroethyl)thiomorpholin-4-ium 1,1-dioxide chloride (41-2)
4-(2-Hydroxyethyl)thiomorpholin-4-ium 1,1-dioxide chloride, the HCl salt of 41-1, (6.0 g, 27.82 mmol) was treated with pyridine (2.43 g, 30.60 mmol) and then warmed with a solution of thionyl chloride (4.96 g, 41.72 mmol) in chloroform (20 mL) to 60° C. After 1.5 hours the reaction was cooled to 25° C. and water was added. The chloroform was drawn off and the aqueous layer was condensed under reduced pressure to a clear syrup which crystallized upon standing. The crystals were filtered off, washed with 95% ethanol, methanol and then dried to afford 41-2. 1H-NMR (CD3OD): 4.01(t, 2H); 3.90(m, 4H); 3.71(t, 2H); 3.59(t, 4H).

reactant | 4-(2-Hydroxyethyl)thiomorpholin-4-ium 1,1-dioxide chloride | [Cl-].OCC[NH+]1CCS(CC1)(=O)=O
reactant | HCl | Cl | ClH
reactant | pyridine | 30.60 mmol, 2.43 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 41.72 mmol, 4.96 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-(2-chloroethyl)thiomorpholin-4-ium 1,1-dioxide chloride | [Cl-].ClCC[NH+]1CCS(CC1)(=O)=O | InChI=1S/C6H12ClNO2S.ClH/c7-1-2-8-3-5-11(9,10)6-4-8;/h1-6H2;1H
